US06313311B1
c) 6-Hydroxymethyl-3-(1H-imidazol-4-ylmethyl)-indan-5-ol
Sodium borohydride (8 mg) is added into a solution of 6-hydroxy-1-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde (44 mg) in ethanol (6 ml). The mixture is stirred at room temperature for one hour and then poured into water. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is purified by flash chromatography using methylene chloride-methanol as eluent and crystallized from ethyl acetate.

reactant | Sodium borohydride | 8 mg | [BH4-].[Na+]
reactant | 6-hydroxy-1-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde | 44 mg | OC1=C(C=C2CCC(C2=C1)CC=1N=CNC1)C=O | C14H14N2O2
reactant | water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 6-Hydroxymethyl-3-(1H-imidazol-4-ylmethyl)-indan-5-ol | OCC1=C(C=C2C(CCC2=C1)CC=1N=CNC1)O | C14H16N2O2
